US09334286B2
Preparation 71: N-(4-Cyano-2-methoxyphenyl)formamide
Acetic anhydride (0.65 mL, 6.7 mmol) was cooled in an ice bath and formic acid (0.38 mL, 10 mmol) was added with stirring. The ice-bath was removed and the mixture was stirred for a further 60 minutes. The reaction was re-cooled in the ice-bath and 4-amino-3-methoxybenzonitrile (0.25 g, 1.58 mmol) was added. The reaction was stirred at ice-bath temperature for 5 minutes, then at room temperature for 60 minutes. The reaction was concentrated in vacuo, azeotroped with toluene and the title compound was precipitated from ether/hexanes as a white powder (255 mg, 71.3%).

reactant | Acetic anhydride | 6.7 mmol, 0.65 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 10 mmol, 0.38 mL | C(=O)O | CH2O2
reactant | 4-amino-3-methoxybenzonitrile | 1.58 mmol, 0.25 g | NC1=C(C=C(C#N)C=C1)OC | C8H8N2O
product | N-(4-Cyano-2-methoxyphenyl)formamide | C(#N)C1=CC(=C(C=C1)NC=O)OC | C9H8N2O2
